************************************************************************
* auCdl Netlist:
* 
* Library Name:  CuFab
* Top Cell Name: ring_oscillator
* View Name:     schematic
* Netlisted on:  Sep 14 15:46:06 2021
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: CuFab
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter VDD VIN VOUT VSS
*.PININFO VIN:I VOUT:O VDD:B VSS:B
MM0 VOUT VIN VSS NM W=9.6u L=4.8u
MM1 VOUT VIN VDD PM W=19.2u L=4.8u
.ENDS

************************************************************************
* Library Name: CuFab
* Cell Name:    ring_oscillator
* View Name:    schematic
************************************************************************

.SUBCKT ring_oscillator VDD VSS
*.PININFO VDD:B VSS:B
XI4 VDD net13 net3 VSS / inverter
XI3 VDD net14 net13 VSS / inverter
XI2 VDD net15 net14 VSS / inverter
XI1 VDD net16 net15 VSS / inverter
XI0 VDD net3 net16 VSS / inverter
.ENDS

